US04908371
2.8 ml of triethylamine are added at room temperature to a suspension of 1.89 g of 2-ethyl-3-hydroxy-1-methyl-4(1H)-pyridinone hydrochloride in 50 ml of acetonitrile and 50 ml of methylene chloride followed by the addition of 2.27 ml of ethyl isocyanatoacetate. The ensuing reaction is slightly exothermic and a solution forms within 10 minutes. The reaction is complete after 1.5 hours. The reaction mixture is evaporated to dryness under reduced pressure, the residue is dried under a high vacuum and crystallised from ethyl acetate. A solution of 4.0 g of the resultant hydrochloride of 3-(ethoxycarbonylmethylaminocarbonyloxy)-2-ethyl-1-methyl-4(1H)-pyridinone in 40 ml of water is adjusted to pH 2.5 with phosphoric acid, saturated with sodium chloride and extracted with methylene chloride. The residue of the organic extract is crystallised from a 95:5 mixture of ethyl acetate and methylene chloride, affording 3-(ethoxycarbonylmethylaminocarbonyloxy)-2-ethyl-1-methyl-4(1H)-pyridinone with a melting point of 99°-100° C.

reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl-3-hydroxy-1-methyl-4(1H)-pyridinone hydrochloride | 1.89 g | Cl.C(C)C=1N(C=CC(C1O)=O)C
reactant | ethyl isocyanatoacetate | 2.27 ml | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(ethoxycarbonylmethylaminocarbonyloxy)-2-ethyl-1-methyl-4(1H)-pyridinone | C(C)OC(=O)CNC(=O)OC1=C(N(C=CC1=O)C)CC | C13H18N2O5
